US07838498B2
Preparation of (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2-hydroxyethoxy)ethyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol (Compound AG)
To a solution of (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2-hydroxyethoxy)ethyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate (31 mg, 0.048 mmol) in THF:MeOH:H2O (2:3:1, 0.6 mL) was added LiOH—H2O (2.8 mg, 0.067 mmol). After being stirred overnight at room temperature, the reaction mixture was concentrated. The residue was dissolved in EtOAc, washed 1× with brine, 1× with brine containing 1% NaHSO4 and 1× with brine prior to drying over Na2SO4. Concentration gave 22 mg of title compound. 1H-NMR (CD3OD, 300 MHz) δ 7.38 (s, 1H), 7.27 (s, 1H), 7.07 (s, 4H), 4.47 (dd, J=9.6, 3.0 Hz, 1H), 4.02 (s, 2H), 3.85 (d, J=12.3 Hz, 1H), 3.71-3.62 (m, 5H), 3.53-3.46 (m, 4H), 3.39-3.37 (m, 2H), 3.13-3.03 (m, 1H), 2.97-2.87 (m, 1H), 2.58 (q, J=7.5 Hz, 2H), 1.19 (t, J=7.5 Hz, 3H); MS ESI (m/z) 481 (M+1)+, calc. 480.

reactant | (2R,3R,4R,5S,6S)-2-(acetoxymethyl)-6-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2-hydroxyethoxy)ethyl)phenyl)tetrahydro-2H-pyran-3,4,5-triyl triacetate | 0.048 mmol, 31 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=C(C=C(C(=C1)CC1=CC=C(C=C1)CC)Cl)CCOCCO)COC(C)=O | C33H41ClO11
reactant | LiOH—H2O | 0.067 mmol, 2.8 mg | O[Li].O
solvent | THF MeOH H2O | 0.6 mL | C1CCOC1.CO.O
product | (2S,3R,4R,5S,6R)-2-(4-chloro-5-(4-ethylbenzyl)-2-(2-(2-hydroxyethoxy)ethyl)phenyl)-6-(hydroxymethyl)tetrahydro-2H-pyran-3,4,5-triol | 22 mg | ClC1=CC(=C(C=C1CC1=CC=C(C=C1)CC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CCOCCO | C25H33ClO7
